US09278915B2
Intermediate 160: Ethyl 3-(4′-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}biphenyl-4-yl)propanoate
To a solution of ethyl 3-(4′-hydroxybiphenyl-4-yl)propanoate (0.27 g, 0.001 mmol) in acetonitrile was added potassium carbonate (0.27 g, 0.002 mmol) and (1Z)-2-bromo-N-methoxy-1-phenylethanimine (0.23 g, 0.001 mmol) and refluxed at 80° C. for 3 h. RM was diluted with water and extracted with ethyl acetate, Organic layer was washed with water and brine solution, dried over anhydrous Na2SO4 and concentrated to get crude product which was purified by comb flash to get white gummy solid as product (0.25 g, Yield: 60%): MS (ESI, 120 eV): m/z=418 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 7.59-7.63 (m, 2H), 7.37-7.42 (m, 4H), 7.26-7.28 (m, 3H), 7.15 (d, 2H), 6.88-6.90 (d, 2H), 5.15 (s, 2H), 4.03-4.10 (m, 2H), 3.99 (s, 3H), 2.87-2.93 (t, 2H), 2.54-2.60 (t, 2H), 1.17-1.19 (t, 3H).

reactant | ethyl 3-(4′-hydroxybiphenyl-4-yl)propanoate | 0.001 mmol, 0.27 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OCC | C17H18O3
reactant | potassium carbonate | 0.002 mmol, 0.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | (1Z)-2-bromo-N-methoxy-1-phenylethanimine | 0.001 mmol, 0.23 g | BrC\C(=N/OC)\C1=CC=CC=C1 | C9H10BrNO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | Ethyl 3-(4′-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}biphenyl-4-yl)propanoate | Yield: 60% | CO\N=C(/COC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OCC)\C1=CC=CC=C1 | C26H27NO4
